US05981560
1-Ethoxymethyl-1,2,3-triazole
Chloromethyl ethyl ether (125 g, 1.32 mole) was added dropwise over 1.5 hours to an ice-cooled, stirred suspension of 1,2,3-triazole (91.4 g, 1.32 mole) and anhydrous potassium carbonate (183 g, 1.32 mole) in acetone (1.5 l). The mixture was then allowed to warm to room temperature and stirred for a further 18 hours. The solvent was evaporated under reduced pressure, the residue dissolved in water (1 l) and the aqueous solution extracted with dichloromethane (3×300 ml). The combined extracts were washed with saturated brine (3×300 ml), dried (Na2SO4) and evaporated under reduced pressure to furnish a pale yellow oil.

reactant | Chloromethyl ethyl ether | 1.32 mole, 125 g | C(C)OCCl | C3H7ClO
reactant | 1,2,3-triazole | 1.32 mole, 91.4 g | N1N=NC=C1 | C2H3N3
reactant | potassium carbonate | 1.32 mole, 183 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 1.5 l | CC(=O)C | C3H6O
product | 1-Ethoxymethyl-1,2,3-triazole | C(C)OCN1N=NC=C1 | C5H9N3O
